US05162323
10.2 g (43.2 mmol) of nickel II chloride hexahydrate are added to a solution of 7.2 g (21 mmol) of 4nitro-1-{4-[4-(2-pyrimidinyl)-1-piperazinyl]butyl}-1H-pyrazole, Example no. 7, in 60 ml of ethanol, with vigorous stirring. The mixture is cooled in an ice bath and 10.2 g (81 mmol) of sodium borohydride are added slowly. The mixture is left stirring for 1 hour and, after 1 hour at room temperature, water is added, the mixture is evaporated under vacuum, the residue is acidified with concentrated hydrochloric acid and the mixture is filtered, alkalinised with ammonia solution and extracted with ethyl ether. 4.4 g of 4-amino-1-{4-[4-(2-pyrimidinyl)-1-piperazinyl]butyl}-1H-pyrazole are thereby obtained in liquid form.

reactant | 4nitro-1-{4-[4-(2-pyrimidinyl)-1-piperazinyl]butyl}-1H-pyrazole | 21 mmol, 7.2 g | [N+](=O)([O-])C=1C=NN(C1)CCCCN1CCN(CC1)C1=NC=CC=N1 | C15H21N7O2
reactant | sodium borohydride | 81 mmol, 10.2 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 60 ml | C(C)O | C2H6O
catalyst | nickel | 43.2 mmol, 10.2 g | [Ni] | Ni
product | 4-amino-1-{4-[4-(2-pyrimidinyl)-1-piperazinyl]butyl}-1H-pyrazole | 4.4 g | NC=1C=NN(C1)CCCCN1CCN(CC1)C1=NC=CC=N1 | C15H23N7
